US05714438
To 181 mg of dimethylformamide dimethyl acetal was added 250 mg of 1-(4-methylpyrimidin-5-yl)pentan-1,3-dione. The mixture was stirred for 16 hours at room temperature and the volatiles removed by bulb-to-bulb distillation (80° C.; 0.01 mm Hg) to yield 278 mg of 2-(dimethylaminomethylene)-1-(4-methylpyrimidin-5-yl)pentan-1,3-dione as an oil.

reactant | dimethylformamide dimethyl acetal | 181 mg | COC(N(C)C)OC | C5H13NO2
reactant | 1-(4-methylpyrimidin-5-yl)pentan-1,3-dione | 250 mg | CC1=NC=NC=C1C(CC(CC)=O)=O | C10H12N2O2
product | 2-(dimethylaminomethylene)-1-(4-methylpyrimidin-5-yl)pentan-1,3-dione | 278 mg | CN(C)C=C(C(=O)C=1C(=NC=NC1)C)C(CC)=O | C13H17N3O2
